US08207177B2
Step a: 1-(4-chlorophenyl)-3-methylbutan-2-ol
Magnesium (5.02 g, 0.206 mol) was covered in dry ether (50 mL, 0.5 mol) under an atmosphere of nitrogen. Iodine (0.254 g, 0.001 mol) was added to the reaction, followed by approximately 1 mL of a solution of 1-chloro-4-(chloromethyl)-benzene (32.20 g, 0.200 mol) in ether (25.0 mL, 0.238 mol). An exotherm was noted and the mixture reached reflux. The slow addition of solution was continued over 90 minutes to maintain a gentle reflux. On completion of the addition, the reaction was heated for 30 minutes at 45° C. The reaction was then cooled to 0° C. Isobutyraldehyde (25.19 mL, 0.2774 mol) in Ether (20 mL, 0.2 mol) was then added slowly over 2 hours at 0° C. On completion of the addition the reaction was allowed to warm to room temperature and stir overnight. The reaction was then quenched with ice (200 g) and acidified with 2M HCl (100 mL). The organic phase was separated and the aqueous was extracted twice with more ether. The combined organic phase was evaporated and the residue was purified by silica gel chromatography, eluting with 0 to 10% methanol in dichloromethane to yield the product, 17.8 g (45%). 1H NMR (300 MHz, CDCl3, δ): 7.22 (m, 4H), 3.56 (m, 1H), 2.81 (dd, J=3.3 Hz, 13.7 Hz, 1H), 2.58 (dd, J=9.4 Hz, 13.7 Hz, 1H), 1.74 (dt, J=6.5 Hz, 12.9 Hz, 1H), 1.45 (s, 1H), 1.00 (s, 3H), 0.98 (s, 3H).

reactant | Magnesium | 0.206 mol, 5.02 g | [Mg] | Mg
reactant | ether | 0.5 mol, 50 mL | CCOCC | C4H10O
reactant | Iodine | 0.001 mol, 0.254 g | II | I2
reactant | 1-chloro-4-(chloromethyl)-benzene | 0.200 mol, 32.20 g | ClC1=CC=C(C=C1)CCl | C7H6Cl2
reactant | ether | 0.238 mol, 25.0 mL | CCOCC | C4H10O
reactant | Isobutyraldehyde | 0.2774 mol, 25.19 mL | C(C(C)C)=O | C4H8O
reactant | Ether | 0.2 mol, 20 mL | CCOCC | C4H10O
product | 1-(4-chlorophenyl)-3-methylbutan-2-ol | ClC1=CC=C(C=C1)CC(C(C)C)O | C11H15ClO
